US08541455B2
To a solution of 0.3 g (0.57 mmol) of 6-(4-benzyl-5-oxo-2,5-dihydro-1H-pyrazol-1-yl)-N-{(1R,3S)-3-[(benzyloxy)methyl]cyclopentyl}pyridine-3-sulfonamide in 2 mL of DCM cooled to −78° C. are added 1.7 mL of boron tribromide. The temperature is then allowed to rise to 0° C. and stirring is continued for 1 hour at 0° C. 10 mL of MeOH are then added at −10° C. and the medium is concentrated under reduced pressure. The medium is taken up in 100 mL of DCM, washed successively with saturated NaHCO3 solution (2×20 mL) and brine (20 mL), dried over Na2SO4, concentrated under reduced pressure and then purified by chromatography on a column of silica gel, eluting with a 90/10 DCM/MeOH mixture. 126 mg of 6-(4-benzyl-5-oxo-2,5-dihydro-1H-pyrazol-1-yl)-N-[(1R,3S)-3-(hydroxymethyl)cyclopentyl]-N-methylpyridine-3-sulfonamide are obtained in the form of a powder.

reactant | 6-(4-benzyl-5-oxo-2,5-dihydro-1H-pyrazol-1-yl)-N-{(1R,3S)-3-[(benzyloxy)methyl]cyclopentyl}pyridine-3-sulfonamide | 0.57 mmol, 0.3 g | C(C1=CC=CC=C1)C1=CNN(C1=O)C1=CC=C(C=N1)S(=O)(=O)N[C@H]1C[C@H](CC1)COCC1=CC=CC=C1 | C28H30N4O4S
reactant | boron tribromide | 1.7 mL | B(Br)(Br)Br | BBr3
reactant | MeOH | 10 mL | CO | CH4O
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 6-(4-benzyl-5-oxo-2,5-dihydro-1H-pyrazol-1-yl)-N-[(1R,3S)-3-(hydroxymethyl)cyclopentyl]-N-methylpyridine-3-sulfonamide | 126 mg, Yield=50% | C(C1=CC=CC=C1)C1=CNN(C1=O)C1=CC=C(C=N1)S(=O)(=O)N(C)[C@H]1C[C@H](CC1)CO | C22H26N4O4S
